US07767675B2
Step 2. (2R)-2-aminopropyl dim ethylcarbamate hydrochloride
To a solution of (2R)-2-[(tert-Butoxycarbonyl)amino]propyl dimethylcarbamate (16.0 mg, 0.0650 mmol) in EtOAc (0.2 mL) was added 4M of hydrogen chloride in 1,4-dioxane (0.5 mL) and stirred for 1 h. The volatiles were removed under reduce pressure to give the desired compound. LCMS: (M+H)=147.1.

reactant | (2R)-2-[(tert-Butoxycarbonyl)amino]propyl dimethylcarbamate | 0.0650 mmol, 16.0 mg | CN(C(OC[C@@H](C)NC(=O)OC(C)(C)C)=O)C | C11H22N2O4
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | EtOAc | 0.2 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (2R)-2-aminopropyl dim ethylcarbamate hydrochloride | Cl.CN(C(OC[C@@H](C)N)=O)C | InChI=1S/C6H14N2O2.ClH/c1-5(7)4-10-6(9)8(2)3;/h5H,4,7H2,1-3H3;1H/t5-;/m1./s1
